* Debug PVT transient — check internal signals
.title PVDD LDO PVT Debug

.param mc_mm_switch = 0
.param MC_MM_SWITCH = 0
.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub {0.1e-15*w*l}
c1 r1 sub {0.1e-15*w*l}
.ends sky130_fd_pr__model__parasitic__res_po
.lib "../sky130.lib.spice" tt

.include ../00_error_amp/design.cir
.include ../01_pass_device/design.cir
.include ../02_feedback_network/design.cir
.include ../03_compensation/design.cir
.include ../04_current_limiter/design.cir
.include ../05_uv_ov_comparators/design.cir
.include ../06_level_shifter/design.cir
.include ../07_zener_clamp/design.cir
.include ../08_mode_control/design.cir
.include ../09_startup/design.cir
.include design.cir

Vbvdd bvdd 0 PWL(0 0 1u 7)
Vavbg avbg 0 PWL(0 0 1u 1.226)
Iibias 0 ibias 1u
Vsvdd svdd 0 2.2
Ven en 0 2.2
Ven_ret en_ret 0 0
Rload pvdd 0 5000

XDUT bvdd pvdd 0 avbg ibias svdd en en_ret uv_flag ov_flag startup_done pvdd_regulator

.option gmin=1e-10 method=gear reltol=1e-3 abstol=1e-10 vntol=1e-4

.ic V(pvdd)=0 V(bvdd)=0
.tran 100u 50000u uic

.control
run
echo "=== Time snapshots ==="
meas tran pv1 FIND v(pvdd) AT=100u
meas tran pv2 FIND v(pvdd) AT=1000u
meas tran pv3 FIND v(pvdd) AT=5000u
meas tran pv4 FIND v(pvdd) AT=10000u
meas tran pv5 FIND v(pvdd) AT=20000u
meas tran pv6 FIND v(pvdd) AT=50000u
meas tran gate1 FIND v(xdut.gate) AT=1000u
meas tran gate2 FIND v(xdut.gate) AT=50000u
meas tran ea1 FIND v(xdut.ea_out) AT=1000u
meas tran ea2 FIND v(xdut.ea_out) AT=50000u
meas tran vfb1 FIND v(xdut.vfb) AT=1000u
meas tran vfb2 FIND v(xdut.vfb) AT=50000u
meas tran vref1 FIND v(xdut.vref_ss) AT=1000u
meas tran vref2 FIND v(xdut.vref_ss) AT=50000u
print pv1 pv2 pv3 pv4 pv5 pv6
print gate1 gate2 ea1 ea2
print vfb1 vfb2 vref1 vref2
quit
.endc

.end
